US07176242B2
Step 4: 4-Butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1,2,3,4-tetrahydroquinoxaline-6-carboxamide hydrochloride
A solution of 1-(tert-butoxycarbonyl)-4-butyl-1,2,3,4-tetrahydroquinoxaline-6-carboxylic acid (120 mg), HBTU (204 g), and diisopropylethylamine (100 μL) was stirred in methylene chloride (2.0 mL) for 15 min. A solution of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (146 mg) and diisopropylethylamine (100 μL) in methylene chloride (2.0 mL) was added and the mixture was stirred overnight. The mixture was diluted with methylene chloride, washed with 1 N hydrochloric acid (10 mL), saturated sodium bicarbonate (10 mL), and brine. The organic layer was then dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:9 methanol/chloroform) provided a clear solid. The solid was dissolved in methanol (1 mL), and treated with hydrochloric acid (0.5 mL, 1.0 M diethyl ether, 0.5 mmol). The resulting precipitate was collected by filtration to provide 45 mg of the title compound: ESI MS m/z 551 [M+H]+.

reactant | 1-(tert-butoxycarbonyl)-4-butyl-1,2,3,4-tetrahydroquinoxaline-6-carboxylic acid | 120 mg | C(C)(C)(C)OC(=O)N1CCN(C2=CC(=CC=C12)C(=O)O)CCCC | C18H26N2O4
reactant | HBTU | 204 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 100 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 146 mg | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | diisopropylethylamine | 100 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | 0.5 mmol, 1.0 M, 0.5 mL | Cl | ClH
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
product | 4-Butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1,2,3,4-tetrahydroquinoxaline-6-carboxamide hydrochloride | 45 mg | Cl.C(CCC)N1CCNC2=CC=C(C=C12)C(=O)N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | InChI=1S/C32H40F2N4O2.ClH/c1-3-5-12-38-13-11-36-28-10-9-25(18-30(28)38)32(40)37-29(17-24-15-26(33)19-27(34)16-24)31(39)21-35-20-23-8-6-7-22(4-2)14-23;/h6-10,14-16,18-19,29,31,35-36,39H,3-5,11-13,17,20-21H2,1-2H3,(H,37,40);1H/t29-,31+;/m0./s1
